US05708008
5-(ethoxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10 mg (0.0437 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 4.97 mg (0.0458 mMol) ethyl chloroformate, 11.1 mg (84%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0437 mMol, 10 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | ethyl chloroformate | 0.0458 mMol, 4.97 mg | ClC(=O)OCC | C3H5ClO2
product | 5-(ethoxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 11.1 mg, 84% | C(C)OC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C17H23N3O2
